### PR TITLE
feat(CategoryTheory/Adjunction): more results on adjoint triples.

### PR DESCRIPTION
**Pull request by peabrainiac**
Lemmas about adjoint triples `F ⊣ G ⊣ H` where either `G` is fully faithful or `F` and `H` are.

From [lean-orbifolds](https://github.com/peabrainiac/lean-orbifolds/blob/387fe778f3cc1ed3c5e60f390842333ecc9eda67/Orbifolds/ForMathlib/Triple.lean).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by peabrainiac** [comment]
I think the large import is nothing to worry about, since this is a leaf file and it is not clear yet if any future importers would benefit from splitting it up; however, since it is only 8 lemmas that need the additional import it could also make sense to move them into some new file like `Adjunction.EpiMono`. I plan on adding two more lemmas like that in another PR later, on quadruples instead of triples.

Particular attention should probably go to the lemmas added to `CategoryTheory.EpiMono`, since they are general API rather than specific to adjoint triples; let me know if I should split them off into a separate PR.

**Comment by peabrainiac** [comment]
!bench

File: Mathlib/CategoryTheory/EpiMono.lean [hunk 1]
```diff
@@ -242,4 +242,68 @@ instance {X Y : C} (f : X ⟶ Y) [hf : IsSplitEpi f] (F : C ⥤ D) : IsSplitEpi
 
 end
 
+section
+
+/-- When `f` is an isomorphism, `f ≫ g` is epic iff `g` is. -/
+@[simp]
+lemma epi_isIso_comp_iff {X Y Z : C} (f : X ⟶ Y) [IsIso f] (g : Y ⟶ Z) :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/EpiMono.lean:249]: There is a more general lemma:
```lean
lemma epi_comp_iff {X Y Z : C} (f : X ⟶ Y) [Epi f] (g : Y ⟶ Z) :
    Epi (f ≫ g) ↔ Epi g :=
  ⟨fun _ ↦ epi_of_epi f g, fun _ ↦ inferInstance⟩
```

File: Mathlib/CategoryTheory/Adjunction/Triple.lean [hunk 2]
```diff
@@ -52,4 +82,226 @@ noncomputable def fullyFaithfulEquiv : F.FullyFaithful ≃ H.FullyFaithful where
   left_inv _ := Subsingleton.elim _ _
   right_inv _ := Subsingleton.elim _ _
 
+/-- For an adjoint triple `F ⊣ G ⊣ H`, the components of the natural transformation
+`H ⋙ G ⟶ F ⋙ G` obtained from the units and counits of the adjunctions are
+under the second adjunction adjunct to the image of the unit of the first adjunction under `H`. -/
+lemma homEquiv_counit_unit_app_eq_H_map_unit {X : C} :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Adjunction/Triple.lean:88]: We should not put letter like `F`, `G`, `H` in names. For convenience, I would suggest introducing a structure as follows, which also makes it easier to get reasonable names which follow the naming conventions:
```lean
variable (F : C ⥤ D) (G : D ⥤ C) (H : C ⥤ D)

structure Triple where
  adj₁ : F ⊣ G
  adj₂ : G ⊣ H

namespace Triple

variable {F G H} (t : Triple F G H) [G.Full] [G.Faithful]

noncomputable def natTrans : H ⟶ F :=
  ((Functor.FullyFaithful.ofFullyFaithful G).whiskeringRight _).preimage
    (t.adj₂.counit ≫ t.adj₁.unit)

@[simp, reassoc]
lemma whiskerRight_natTrans : whiskerRight t.natTrans G = t.adj₂.counit ≫ t.adj₁.unit :=
  ((Functor.FullyFaithful.ofFullyFaithful G).whiskeringRight _).map_preimage _

@[simp, reassoc]
lemma map_natTrans_app (X : C) :
    G.map (t.natTrans.app X) =
      t.adj₂.counit.app X ≫ t.adj₁.unit.app X :=
  congr_app t.whiskerRight_natTrans X

@[reassoc (attr := simp)]
lemma adj₁_counit_app_natTrans_app (X : C) :
    t.adj₁.counit.app (H.obj X) ≫ t.natTrans.app X = F.map (t.adj₂.counit.app X) :=
  G.map_injective (by simp [← cancel_epi (t.adj₁.unit.app _)])

@[reassoc (attr := simp)]
lemma natTrans_app_adj₂_unit_app (X : C) :
    t.natTrans.app X ≫ t.adj₂.unit.app (F.obj X) = H.map (t.adj₁.unit.app X) :=
  G.map_injective (by simp [← cancel_mono (t.adj₂.counit.app _)])

lemma epi_natTrans_app_iff_epi_map_adj₂_counit_app (X : C) :
    Epi (t.natTrans.app X) ↔ Epi (F.map (t.adj₂.counit.app X)) := by
  rw [← epi_comp_iff (t.adj₁.counit.app (H.obj X)), adj₁_counit_app_natTrans_app]

lemma epi_natTrans_app_iff (X : C) :
    Epi (t.natTrans.app X) ↔ Epi (H.map (t.adj₁.unit.app X)) := by
  rw [← epi_comp_isIso_iff _ (t.adj₂.unit.app (F.obj X)), natTrans_app_adj₂_unit_app]

end Triple
```
I am not completely sure we need to state the lemmas about natural transformations being `Mono/Epi`. I would suggest keeping in this PR only the `_app` versions, and if we absolutely need to use `Epi/Mono` natural transformations in applications, we may use `NatTrans.epi_iff_epi_app` there only.

File: Mathlib/CategoryTheory/EpiMono.lean [hunk 3]
```diff
@@ -242,4 +242,68 @@ instance {X Y : C} (f : X ⟶ Y) [hf : IsSplitEpi f] (F : C ⥤ D) : IsSplitEpi
...
+/-- When `g` is an isomorphism, `f ≫ g` is monic iff `f` is. -/
+@[simp]
+lemma mono_comp_isIso_iff {X Y Z : C} (f : X ⟶ Y) (g : Y ⟶ Z) [IsIso g] :
+    Mono (f ≫ g) ↔ Mono f := by
+  refine ⟨fun h ↦ ?_, fun h ↦ inferInstance⟩
+  simpa using (inferInstance : Mono ((f ≫ g) ≫ inv g ))
+
+/-- For any natural transformation `f : F ⟶ G`, if `X` and `Y` are isomorphic, the component of
+`f` at `X` is epic iff the component of `f` at `Y` is. -/
+lemma NatTrans.epi_app_congr_iso {C D : Type*} [Category C] [Category D]
```
Comment (joelriou) [inline Mathlib/CategoryTheory/EpiMono.lean:277]: As I am not completely use we absolutely need these lemmas (in my code above about `HToF`, I did not need it), I would suggest keeping these lemmas out of this PR.

File: Mathlib/CategoryTheory/Adjunction/Triple.lean (hunk 2 above)
Comment (peabrainiac) [reply Mathlib/CategoryTheory/Adjunction/Triple.lean:88]: What would you suggest calling the natural transformation `H ⟶ F` if the one going the other direction is `Triple.natTrans`? Maybe `Triple.leftToRight` and `Triple.rightToLeft` could work?

**Comment by peabrainiac** [comment]
I've renamed the natural transformations and introduced the `Triple` structure now. I'm a bit unsure about the latter change; it definitely solves the naming problem, but also adds complexity in that when you want to apply the lemmas to adjunctions `adj₁`, `adj₂`, you now need to construct the triple `⟨t.adj₁, t.adj₂⟩` first, and then the lemmas are about `⟨t.adj₁, t.adj₂⟩.adj₁` and `⟨t.adj₁, t.adj₂⟩.adj₂` instead of `adj₁` and `t.adj₂`. Of course that's equal, but not reducibly so; I'm not sure if that could cause issues.

Regarding the lemmas about natural transformations as a whole being epic/monic, you're probably right that just proving that when needed is enough; I've removed them now. That also had the nice side effect of removing the extra imports, so the question of whether those lemmas should go into a different file is resolved now too.

That is all I can do for now; I'll have a think about the alternative structure you posted later.

**Comment by peabrainiac** [comment]
I have implemented your alternative definition `rightToLeft` now; it was indeed quite helpful for cleaning up the proofs. I also tried to clean up `leftToRight` in a similar way, but as far as I can see this approach doesn't really carry over to that case, so there is somewhat of an asymmetry in the API now. Nonetheless, I think this is as good as I can make it for now.

File: Mathlib/CategoryTheory/Adjunction/Triple.lean [hunk 4]
```diff
@@ -38,18 +76,186 @@ noncomputable def fullyFaithfulEquiv : F.FullyFaithful ≃ H.FullyFaithful where
...
+section OuterFullyFaithful
+
+variable [F.Full] [F.Faithful] [H.Full] [H.Faithful]
+
+/-- The natural transformation `F ⟶ H` that exists for every adjoint triple `F ⊣ G ⊣ H` where `F`
+and `H` are fully faithful, given here as the whiskered unit `F ⟶ F ⋙ G ⋙ H` of the second
+adjunction followed by the inverse of the whiskered unit `F ⋙ G ⋙ H ⟶ H` of the first. -/
+noncomputable def leftToRight : F ⟶ H :=
+  F.rightUnitor.inv ≫ whiskerLeft F t.adj₂.unit ≫ (Functor.associator _ _ _).inv ≫
+  inv (whiskerRight t.adj₁.unit H) ≫ H.leftUnitor.hom
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Adjunction/Triple.lean:178]: I think there should be two definitions, depending on whether we know `F` is fully faithful, or `H` is fully faithfull:
```lean
noncomputable def leftToRight [F.Full] [F.Faithful] : F ⟶ H := 
  F.rightUnitor.inv ≫ whiskerLeft F t.adj₂.unit ≫ (Functor.associator _ _ _).inv ≫
  inv (whiskerRight t.adj₁.unit H) ≫ H.leftUnitor.hom

noncomputable def leftToRight' [H.Full] [H.Faithful] : F ⟶ H :=
  F.leftUnitor.inv ≫ inv (whiskerRight t.adj₂.counit F) ≫
    (Functor.associator _ _ _).hom ≫ whiskerLeft H t.adj₁.counit ≫ H.rightUnitor.hom
```
The lemma `leftToRight_eq_counits` should now say `leftToRight_eq_leftToRight'` when both functors are fully faithful, and the rest of the API should use only one of the two assumptions.

Comment (peabrainiac) [reply Mathlib/CategoryTheory/Adjunction/Triple.lean:178]: Are you sure we want this, considering that `F` is fully faithful iff `H` is? Both being fully faithful is always just one application of `Triple.fullyFaithfulEquiv` away. In my mind, we should have both instances registered anyway in all situations where these lemmas would be applied.

**Comment by peabrainiac** [comment]
This PR has been migrated to a fork-based workflow: https://github.com/leanprover-community/mathlib4/pull/27650
